US04436748
A mixture of 8.3 g of 7-chloro-6-hydroxy-3-(2-fluorophenyl)benzo[b]thiophene, 6.0 g of ethyl bromoacetate, 60 ml of 2-butanone, 5 ml of dimethylformamide and 4 g of potassium carbonate is heated under reflux until the standing material completely dissolves. Methylene chloride is added to the cooled reaction mixture and the resultant precipitate is collected. Evaporation of the filtrate gives 8.5 g of ethyl{ [7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetate.

reactant | 7-chloro-6-hydroxy-3-(2-fluorophenyl)benzo[b]thiophene | 8.3 g | ClC1=C(C=CC2=C1SC=C2C2=C(C=CC=C2)F)O | C14H8ClFOS
reactant | ethyl bromoacetate | 6.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2-butanone | 60 ml | CC(CC)=O | C4H8O
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl{ [7-chloro-3-(2-fluorophenyl)benzo[b]thien-6-yl]oxy}acetate | 8.5 g | C(C)OC(COC=1C=CC2=C(SC=C2C2=C(C=CC=C2)F)C1Cl)=O | C18H14ClFO3S
